US04118511
2-(propylamino)-4-phenoxy-1-butanol, described in Example 6, with propionic anhydride, followed by reduction, gives 2-(dipropylamino)-4-phenoxy-1-butanol,

reactant | 2-(propylamino)-4-phenoxy-1-butanol | C(CC)NC(CO)CCOC1=CC=CC=C1 | C13H21NO2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-(dipropylamino)-4-phenoxy-1-butanol | C(CC)N(C(CO)CCOC1=CC=CC=C1)CCC | C16H27NO2
